US07888364B2
1 g of 4-fluorobenzonitrile was used in Procedure Q with 1-propanethiol to afford 4-(propylthio)benzonitrile. 860 mg of 4-(propylthio)benzonitrile was reacted via Procedure T to give 4-(propylthio)benzoic acid. 700 mg of 4-(propylthio)benzoic acid was reacted via Procedure R to give 4-(propylsulfonyl)benzoic acid. 60 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(propylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(propylsulfonyl)benzamide. MS (Q1) 415.0 (M)+.

reactant | 4-fluorobenzonitrile | 1 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 1-propanethiol | C(CC)S | C3H8S
product | 4-(propylthio)benzonitrile | C(CC)SC1=CC=C(C#N)C=C1 | C10H11NS
